* Balanced extracted frontend plus physical isolation pair and matched transistor preamp.
.include "/home/mehtama1/git-repo/ai-hardware-analysis/analog-digital-chip-design-eda/labs/analog/analog-in-memory-foundation-model-hardware/layout-workbench/extracted/sky130_balanced_capacitive_isolation_frontend_extracted.spice"
.include "/home/mehtama1/git-repo/ai-hardware-analysis/analog-digital-chip-design-eda/labs/analog/analog-in-memory-foundation-model-hardware/layout-workbench/extracted/sky130_transistor_active_isolation_pair_extracted.spice"

.subckt sky130_extracted_balanced_isolation_preamp_frontend vss vdd sp sense_p clk_sample vcm_reset clk_latch sense_n sn
XFRONT vss vdd sp raw_p clk_sample vcm_reset clk_latch raw_n sn sky130_balanced_capacitive_isolation_frontend
RBIAS_P raw_p vcm_reset 100G
RBIAS_N raw_n vcm_reset 100G
RISO_P vdd iso_p 560k
RISO_N vdd iso_n 560k
XISO iso_tail iso_p iso_n raw_p raw_n sky130_transistor_active_isolation_pair
IISO_TAIL iso_tail 0 4u
RPRE_P vdd pre_p 100k
RPRE_N vdd pre_n 100k
XPRE_P pre_p iso_n pre_tail 0 sky130_fd_pr__nfet_01v8 W=4 L=0.15
XPRE_N pre_n iso_p pre_tail 0 sky130_fd_pr__nfet_01v8 W=4 L=0.15
IPRE_TAIL pre_tail 0 20u
CPRE_P pre_p 0 2f
CPRE_N pre_n 0 2f
CCOUP_P pre_n sense_p 5f
CCOUP_N pre_p sense_n 5f
.ends sky130_extracted_balanced_isolation_preamp_frontend
